US07094368B2
The procedure of Example 10 was followed except as follows. In Part A, 1-amino napthalene (47 g) was used in place of 4-methoxy aniline. In Step 1 of Part B, 2-fluorobenzoyl chloride (15.8 g) and anisole (10.8 g) were used in place of 1,3-dimethoxybenezene and p-anisoyl chloride respectively to produce (2-fluoro-phenyl)-(4-methoxy-phenyl)-methanone. An NMR spectrum showed the final product to have a structure consistent with 12-ethoxy-3-(2-fluorophenyl)-3-(4-methoxy)-3H-benzo[h]pyrano[3,2-c]quinoline.

reactant | 1-amino napthalene | 47 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
reactant | 2-fluorobenzoyl chloride | 15.8 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | anisole | 10.8 g | C1(=CC=CC=C1)OC | C7H8O
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | (2-fluoro-phenyl)-(4-methoxy-phenyl)-methanone | FC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)OC | C14H11FO2
